US04440758
To a mixture of 15 g of acetobromoglucose, 7.92 g of sodium 4-nitrophenolate and 50 ml of acetone was added 300 mg of sodium hydroxide in 15 ml of water. This mixture was stirred for 18 hours, poured into 400 ml of water and the precipitate was filtered off. The residue was dissolved in 200 ml of methylene chloride, washed with 100 ml of aqueous sodium bicarbonate solution, dried and passed through a pad of hydrous magnesium silicate. Evaporation of the solvent and crystallization yielded 4.26 g of 4-nitrophenyl (2,3,4,6-tetra-O-acetyl)-β-D-glucopyranoside as white crystals, mp 173°-175° C.

reactant | acetobromoglucose | 15 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | sodium 4-nitrophenolate | 7.92 g | [N+](=O)([O-])C1=CC=C(C=C1)[O-].[Na+]
reactant | acetone | 50 ml | CC(=O)C | C3H6O
reactant | sodium hydroxide | 300 mg | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
solvent | water | 400 ml | O | H2O
product | 4-nitrophenyl (2,3,4,6-tetra-O-acetyl)-β-D-glucopyranoside | 4.26 g | C(C)(=O)O[C@H]1[C@H](OC2=CC=C(C=C2)[N+](=O)[O-])O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C20H23NO12
